US06696473B2
B. Preparation of N-(2-Dimethylaminoethyl)-4-ethylamino-3-nitrobenzamide
To 2.0 M solution of ethylamine in THF (8 mL, 16 mmol) slowly added 4-chloro-N-(2-dimethylaminoethyl)-3-nitrobenzamide (0.40 g, 1.5 mmol). After heating at 65° C. for 16 h, the reaction mixture was cooled, concentrated and chromatographed (silica gel, MeOH/DCM, 3:22) to afford the title compound (0.30 g, 73%) as a yellow solid. 1H-NMR (CD30D): δ 8.75 (1H, d), 8.32 (1H, br s), 7.98 (1H, dd), 7.08 (1H, d), 3.58-3.64 (3H, m), 3.43-3.51 (2H, m), 2.94 (2H, br t), 2.62 (6H, s), 1.35 (3H, t).

reactant | ethylamine | C(C)N | C2H7N
reactant | THF | 16 mmol, 8 mL | C1CCOC1 | C4H8O
reactant | 4-chloro-N-(2-dimethylaminoethyl)-3-nitrobenzamide | 1.5 mmol, 0.40 g | ClC1=C(C=C(C(=O)NCCN(C)C)C=C1)[N+](=O)[O-] | C11H14ClN3O3
product | N-(2-Dimethylaminoethyl)-4-ethylamino-3-nitrobenzamide | 0.30 g, 73% | CN(CCNC(C1=CC(=C(C=C1)NCC)[N+](=O)[O-])=O)C | C13H20N4O3
